US07141596B2
Step 2. tert-Butyl [(1S)-2-(3-chloro-4-iodophenyl)-1-(5-phenyl-1H-imidazol-2-yl)ethyl]carbamate
tert-Butyl (1S)-1-(3-chloro-4-iodobenzyl)-2-oxo-2-[(2-oxo-2-phenylethyl)-amino]ethylcarbamate (3.1 g, 5.7 mmol) and ammonium acetate (30.0 g, 0.389 mol) were dissolved in DMF (50 mL). The solution was separated into 6 batches, and each batch was heated in the microwave at 120° C. for 30 minutes. The solution was diluted with ethyl acetate (600 mL) and washed with water (600 mL). After the organic layer was dried over sodium sulfate, the solution was concentrated. Purification by silica gel chromatography (20–40% ethyl acetate:hexanes) afforded product as a white solid (2.0 g, 67%). 1H NMR (400 MHz, CD3OD): δ 7.86–7.78 (m, 2H), 7.73–7.68 (m, 2H), 7.59–7.50 (m, 3H), 7.40–7.37 (m, 1H), 6.89–6.87 (m, 1H), 5.13–5.11 (m, 1H), 3.40–3.25 (m, 2H), 1.38 (s, 9H). LCMS found for C22H24ClIN3O2 (M+H)+: m/z=524.

reactant | tert-Butyl (1S)-1-(3-chloro-4-iodobenzyl)-2-oxo-2-[(2-oxo-2-phenylethyl)-amino]ethylcarbamate | 5.7 mmol, 3.1 g | ClC=1C=C(C[C@@H](C(NCC(C2=CC=CC=C2)=O)=O)NC(OC(C)(C)C)=O)C=CC1I | C22H24ClIN2O4
reactant | ammonium acetate | 0.389 mol, 30.0 g | C(C)(=O)[O-].[NH4+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-Butyl [(1S)-2-(3-chloro-4-iodophenyl)-1-(5-phenyl-1H-imidazol-2-yl)ethyl]carbamate | 2.0 g, 67% | ClC=1C=C(C=CC1I)C[C@@H](C=1NC(=CN1)C1=CC=CC=C1)NC(OC(C)(C)C)=O | C22H23ClIN3O2
